US04591585
30 g of 1α,7α-dimethyl-4-androstene-3,17-dione is heated under reflux in 700 ml of dioxane with 30 g of dichlorodicyanobenzoquinone for 8 hours. After cooling, the product is suctioned off from undissolved matter, washed with dioxane, and the filtrate concentrated under vacuum. The residue is chromatographed on silica gel and recrystallized from acetone/hexane, thus obtaining 18 g of 1,7α-dimethylandrosta-1,4-diene-3,17-dione, mp 148°-151° C.

reactant | 1α,7α-dimethyl-4-androstene-3,17-dione | 30 g | C[C@H]1CC(C=C2C[C@H]([C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@@]12C)=O)C)=O | C21H30O2
reactant | dichlorodicyanobenzoquinone | 30 g | ClC1=C(C(C(=C(C1=O)C#N)C#N)=O)Cl | C8Cl2N2O2
solvent | dioxane | 700 ml | O1CCOCC1 | C4H8O2
product | 1,7α-dimethylandrosta-1,4-diene-3,17-dione | 18 g | CC1=CC(C=C2C[C@H]([C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@@]12C)=O)C)=O | C21H28O2
